US06890924B2
[3-Methyl-4-(pyridin-3-yloxy)-phenyl]-(6-piperidin-4-ylethynyl-quinazolin-4-yl)-amine:
4-(4-Chloro-quinazolin-6-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester (80 mg, 0.21 mmol) and 3-Methyl-4-(pyridin-3-yloxy)-phenylamine (43 mg, 0.21 mmol) were mixed together in tert-butanol (1 mL) and dichloroethane (1 mL) and heated in a sealed vial at 90° C. for 20 minutes. The reaction was cooled down and HCl (gas) was bubbled through for 5 minutes. EtOAC was then added whereupon yellow precipitation occurred. The precipitate was collected and dried to afford the desired product [3-Methyl-4-(pyridin-3-yloxy)-phenyl]-(6-piperidin-4-ylethynyl-quinazolin-4-yl)-amine as a yellow solid (96 mg, 95%). 1H NMR (CDCl3) δ 2.01 ((m, 2H), 2.22 (m, 2H), 2.35(s, 3H), 3.20 (m, 2H), 3.45(m, 2H), 7.28 (d, 1H, J=8.7 Hz), 7.75(dd, 3H, J1=8.7, J2=8.7 Hz), 8.06 (dd, J=8.7), 8.10 (dd, J1=J2=8.7 Hz), 8.17 (m, 1 H), 8.60 (d, 1H, J=5.4 Hz), 8.80 (s, 1H), 8.89 (s, 1H). MS: M+1, 436.6.

reactant | 4-(4-Chloro-quinazolin-6-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 80 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC=1C=C2C(=NC=NC2=CC1)Cl | C20H22ClN3O2
reactant | 3-Methyl-4-(pyridin-3-yloxy)-phenylamine | 0.21 mmol, 43 mg | CC=1C=C(C=CC1OC=1C=NC=CC1)N | C12H12N2O
reactant | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
solvent | tert-butanol | 1 mL | C(C)(C)(C)O | C4H10O
product | [3-Methyl-4-(pyridin-3-yloxy)-phenyl]-(6-piperidin-4-ylethynyl-quinazolin-4-yl)-amine | 96 mg, 95% | CC=1C=C(C=CC1OC=1C=NC=CC1)NC1=NC=NC2=CC=C(C=C12)C#CC1CCNCC1 | C27H25N5O
